US06242422B1
(3S)-3-[N-((1-Naphthyloxy)Acetyl)Leucinyl]Amino-4-Oxobutanoic Acid
A solution of (3S)-3-[N-((1-naphthyloxy)acetyl)leucinyl]amino-4-oxobutanoic acid semicarbazone (0.320 g, 0.68 mmol) in 37% aqueous formaldehyde(1.0 mL)-acetic acid(1.0 mL)-methanol(3.0 mL) was stirred at room temperature under nitrogen for 3.5 hrs. The resulting solution was diluted with water and extracted with EtOAc. The extract was washed with water and saturated NaCl solution, dried over anhydrous Na2SO4 and evaporated to dryness. The residue was taken up in EtOAc, filtered through Celite and evaporated to dryness. The product was taken up in a small amount of dioxane, diluted with water, frozen and lyophilized to give the title compound (0.222 g, 79%) as a fluffy white solid. TLC(EtOAc-pyridine-AcOH—H2O; 60:20:5:10) Rf=0.65.

reactant | (3S)-3-[N-((1-naphthyloxy)acetyl)leucinyl]amino-4-oxobutanoic acid semicarbazone | 0.68 mmol, 0.320 g | C1(=CC=CC2=CC=CC=C12)OCC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(O)=NNC(=O)N)C=O | C23H29N5O6
reactant | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
reactant | methanol | 3.0 mL | CO | CH4O
solvent | formaldehyde | 1.0 mL | C=O | CH2O
solvent | water | O | H2O
product | (3S)-3-[N-((1-Naphthyloxy)Acetyl)Leucinyl]Amino-4-Oxobutanoic Acid | 0.222 g, 79% | C1(=CC=CC2=CC=CC=C12)OCC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(=O)O)C=O | C22H26N2O6
